US08357694B2
This was synthesized by using general procedure 6 except that (R,E)-2-((dimethylamino)methylene)-4-(2-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-one reacted with 1-(3-(hydroxymethyl)phenyl)guanidine to give (R)-(3-(6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenyl)methanol M.p.=158-159° C. 1H NMR 400 MHz (DMSO-d6) δ 9.57 (s, 1 H), 8.41-8.39 (m, 1 H), 8.32 (s, 1 H), 7.92 (s, 1 H), 7.70-7.68 (m, 1 H), 7.53-7.45 (m, 2 H), 7.29-7.21 (m, 3 H), 7.08-7.02 (m, 2 H), 6.91-6.89 (d, 1 H), 6.81-6.77 (m, 1 H), 5.19 (t, J=6.0 Hz, 1 H), 4.67 (t, J=6.8 Hz, 1 H), 4.52 (d, J=5.2 Hz, 2H), 3.22-3.02 (m, 2 H). LCMS m/e 398 (M+H).

reactant | (R,E)-2-((dimethylamino)methylene)-4-(2-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-one | CN(C)\C=C/1\C(C2=CC=CC=C2[C@@H](C1)C1=C(C=CC=C1)F)=O | C19H18FNO
reactant | 1-(3-(hydroxymethyl)phenyl)guanidine | OCC=1C=C(C=CC1)NC(=N)N | C8H11N3O
product | (R)-(3-(6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenyl)methanol | FC1=C(C=CC=C1)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC=2C=C(C=CC2)CO | C25H20FN3O
